US08258130B2
To a slurry of 4-amino-6-(4-fluoro-phenyl)-4,5-dihydro-2H-1,2,4-triazin-3-one (0.26 g, 1.23 mmol), 2-phenyl-pyrimidine-5-carboxylic acid (0.25 g, 1.23 mmol), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.37 g, 1.94 mmol) in DMF (12 mL) is added Et3N (0.2 mL, 1.435 mmol) under N2 and the reaction mixture is stirred at rt for 49 h. The mixture is diluted with EtOAc (120 mL), and washed successively with saturated aqueous NH4Cl (2×50 mL), water (2×50 mL), and saturated aqueous NaCl (50 mL). The organic phase is dried (MgSO4), filtered, and concentrated in vacuo. The residue is triturated with EtOH (30 mL) to afford 2-phenyl-pyrimidine-5-carboxylic acid [6-(4-fluoro-phenyl)-3-oxo-2,5-dihydro-3H-1,2,4-triazin-4-yl]-amide (0.12 g, 25%). MS: 391 (M+H); 1H NMR (300 MHz, DMSO-d6) δ 11.25 (s, 1H), 10.58 (s, 1H), 9.31 (s, 2H), 8.47 (dd, J=7.7, 1.8 Hz, 2 H), 7.70-7.86 (m, 2 H), 7.49-7.67 (m, 3H), 7.18-7.34 (m, 2H), 4.77.

reactant | 4-amino-6-(4-fluoro-phenyl)-4,5-dihydro-2H-1,2,4-triazin-3-one | 1.23 mmol, 0.26 g | NN1C(NN=C(C1)C1=CC=C(C=C1)F)=O | C9H9FN4O
reactant | 2-phenyl-pyrimidine-5-carboxylic acid | 1.23 mmol, 0.25 g | C1(=CC=CC=C1)C1=NC=C(C=N1)C(=O)O | C11H8N2O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.94 mmol, 0.37 g | Cl.CN(CCCN=C=NCC)C
reactant | Et3N | 1.435 mmol, 0.2 mL | CCN(CC)CC | C6H15N
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 120 mL | CCOC(=O)C | C4H8O2
product | 2-phenyl-pyrimidine-5-carboxylic acid [6-(4-fluoro-phenyl)-3-oxo-2,5-dihydro-3H-1,2,4-triazin-4-yl]-amide | 0.12 g, 25% | FC1=CC=C(C=C1)C=1CN(C(NN1)=O)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1 | C20H15FN6O2
